US07666864B2
3-[4-(2-Allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-phenyl]-5-hydroxymethyl-oxazolidin-2-one
To a solution of Butyric acid 3-[4-(2-allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl ester (32 mg, 0.07 mmol) in MeOH/CH2Cl2 (3:1, 2.7 mL total) was added K2CO3 (15 mg, 0.105 mmol) and stirred for 1 h 30 min at rt, quenched with 10% aq. AcOH, diluted with water and EtOAc, concentrated and extracted with EtOAc. The concentrate was applied on prep-TLC to provide 2.2 mg of product.

reactant | Butyric acid 3-[4-(2-allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl ester | 0.07 mmol, 32 mg | C(C=C)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C2=CC=C(C=C2)N2C(OC(C2)COC(CCC)=O)=O | C22H24N4O7
reactant | K2CO3 | 0.105 mmol, 15 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH CH2Cl2 | 2.7 mL | CO.C(Cl)Cl
product | 3-[4-(2-Allyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-yl)-phenyl]-5-hydroxymethyl-oxazolidin-2-one | 2.2 mg | C(C=C)C1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C2=CC=C(C=C2)N2C(OC(C2)CO)=O | C18H18N4O6
